US07071216B2
To 4-(2-{[4-bromo-3-methylpheylamino)-6-methoxy-1-methylbenzimidazol-5-yloxy)pyridine-2-carboxylic acid(1 eq) in tetrahydrofuran was added 2-pyrrolidinylethylamine (2 eq), HBTU (2 eq) and N,N-diisopropylethylamine (4 eq) and stir at ambient temperature for 16 h. The mixture was then concentrated and partitioned between ethyl acetate and water. The organic layer was concentrated and preparative chromatography yielded [4-(2-{(4-bromo-3-methylphenyl)amino}-6-methoxy-1-methylbenzimidazol-5-yloxy)(2-pyridyl)]-N-(2-pyrrolidinylethyl)carboxamide. MS: MH+=579.

reactant | 2-{[4-bromo-3-methylpheylamino)-6-methoxy-1-methylbenzimidazol-5-yloxy)pyridine-2-carboxylic acid | 1 eq | BrC1=C(C=C(C=C1)NC1=NC2=C(N1C)C=C(C(=C2)OC2(NC=CC=C2)C(=O)O)OC)C | C22H21BrN4O4
reactant | 2-pyrrolidinylethylamine | 2 eq | N1(CCCC1)CCN | C6H14N2
reactant | HBTU | 2 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 4 eq | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [4-(2-{(4-bromo-3-methylphenyl)amino}-6-methoxy-1-methylbenzimidazol-5-yloxy)(2-pyridyl)]-N-(2-pyrrolidinylethyl)carboxamide | BrC1=C(C=C(C=C1)NC1=NC2=C(N1C)C=C(C(=C2)OC2=CC(=NC=C2)C(=O)NCCN2CCCC2)OC)C | C28H31BrN6O3
